US05068272
4-[3-[ethyl[3-(propylsulfinyl)propyl]amino]-2(R)-hydroxypropoxy]-benzonitrile
Oxidation of 4-[3-[ethyl[3-(propylthio)propyl]amino]-2(R)-hydroxypropoxy]benzonitrile with m-chloroperbenzoic acid was carried out as described for the stereoisomeric mixture in example 3. [α]D20 -18.6° (C 1.0, CH3OH).

reactant | 4-[3-[ethyl[3-(propylthio)propyl]amino]-2(R)-hydroxypropoxy]benzonitrile | C(C)N(C[C@H](COC1=CC=C(C#N)C=C1)O)CCCSCCC | C18H28N2O2S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH3OH | CO | CH4O
product | 4-[3-[ethyl[3-(propylsulfinyl)propyl]amino]-2(R)-hydroxypropoxy]-benzonitrile | C(C)N(C[C@H](COC1=CC=C(C#N)C=C1)O)CCCS(=O)CCC | C18H28N2O3S
